US07157488B2
3-(3-Fluoropropoxy)benzaldehyde
Combine 1-bromo-3-fluoropropane (10.0 g, 77.1 mmol) and 3-hydroxybenzaldehyde (10.4 g, 92.5 mmol) in dimethylformamide (220 mL) and stir at room temperature. Treat with potassium carbonate in portions (21.3 g, 144.2 mmol). Heat the reaction mixture at 100° C. for 36 hours, then pour into a 1:1 mixture of ice water and dichloromethane. Separate the phases and extract the aqueous layer with additional dichloromethane. Wash the combined organic extracts sequentially with 1.0 N sodium hydroxide, saturated sodium bicarbonate, brine, and then dry over sodium sulfate. Filtration and removal of the solvent in vacuo provides a residue. Chromatograph the residue on silica gel eluting with 40% ethyl acetate in hexanes to give the title compound as a yellow oil: 1H NMR (400 MHz, CDCl3) 9.98 (s, 1H), 7.50–7.42 (m, 2H), 7.42–7.38 (m, 1H), 7.22–7.16 (m, 1H), 4.66 (dt, 2H, J=46.8, 5.8 Hz), 4.17 (t, 2H, J=6.0 Hz), 2.19 (d quintuplets, 2H, J=26.0, 6.0 Hz); MS (APCI): m/e 183.1 (M+1).

reactant | 1-bromo-3-fluoropropane | 77.1 mmol, 10.0 g | BrCCCF | C3H6BrF
reactant | 3-hydroxybenzaldehyde | 92.5 mmol, 10.4 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 220 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluoropropoxy)benzaldehyde | FCCCOC=1C=C(C=O)C=CC1 | C10H11FO2
